US07838674B2
8,10-Dioxo-6,11-diaza-dispiro[2.0.3.4]undecane-6-carboxylic acid tert-butyl ester
8,10-Dioxo-6,11-diaza-dispiro[2.0.3.4]undecane-6,9-dicarboxylic acid 6-tert-butyl ester 9-methyl ester (160 mg; 0.47 mmol) in acetonitrile/water (3 ml/0.3 ml) is refluxed for 1 hour and evaporated to dryness to deliver the title compound as off-white crystals (125 mg; 94%).

reactant | 8,10-Dioxo-6,11-diaza-dispiro[2.0.3.4]undecane-6,9-dicarboxylic acid 6-tert-butyl ester 9-methyl ester | 0.47 mmol, 160 mg | COC(=O)C1C(C2(C3(CC3)NC1=O)CN(C2)C(=O)OC(C)(C)C)=O | C16H22N2O6
solvent | acetonitrile water | 3 ml | C(C)#N.O
product | 8,10-Dioxo-6,11-diaza-dispiro[2.0.3.4]undecane-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(C3(CC3)NC(CC2=O)=O)C1 | C14H20N2O4
